US04783495
Methyl-bis(3,5-di-tert-butyl-4-hydroxyphenyl)silane
To a solution of 6.0 g (10 mmol) of methylbis (3,5-di-tert-butyl-4-trimethylsilyloxyphenyl)silane in 30 ml of tetrahydrofuran is added dropwise a solution of 6.3 g (20 mmol) of tetrabutylammonium fluoride trihydrate in 35 ml of tetrahydrofuran. A vigorous evolution of gas is witnessed during the addition and the reaction mixture becomes green in color. The reaction mixture is stirred for 5 minutes at room temperature and to it is added dropwise a solution of 1.9 g (52 mmol) of concentrated hydrochloric acid in 10 ml of tetrahydrofuran. The solvent is removed in vacuo and the residue is recrystallized from n-propyl alcohol to give 2.7 grams of white solid which is a mixture of two products. The product mixture is separated by preparative HPLC (silica gel, 99:1, heptane, ethyl acetate) to give 0.4 g (9%) of the desired product as white crystals; mp. 191°-193.5° C.

reactant | methylbis (3,5-di-tert-butyl-4-trimethylsilyloxyphenyl)silane | 10 mmol, 6.0 g | C[SiH](C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O[Si](C)(C)C)C(C)(C)C | C35H62O2Si3
reactant | tetrabutylammonium fluoride trihydrate | 20 mmol, 6.3 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 52 mmol, 1.9 g | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Methyl-bis(3,5-di-tert-butyl-4-hydroxyphenyl)silane | 2.7 grams | C[SiH](C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C29H46O2Si
